US06316438B1
1-Ethyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester
(1-Ethylpyrazol-5-ylamino)methylenemalonate diethyl ester (180 mmol from previous reaction) was dissolved in diphenyl ether (200 mL), and the resulting solution was placed in a preheated oil bath at 255° C. The reaction solution was heated for 5 h, and then the diphenyl ether was removed via distillation. The resulting brown reaction mixture was cooled to room temperature and poured into hexane (1 L). This solution was cooled to −78° C., and the resulting precipitate was filtered to afforded the title compound as a beige colored needle shaped solid that was >90% pure by HPLC and was used directly (25 g, 60% for 2 steps). A portion was recrystallized using ethanol-H2O to afford a white solid: mp 85-86° C.; LRMS (m/z) 236 (MH+).

reactant | (1-Ethylpyrazol-5-ylamino)methylenemalonate diethyl ester | 180 mmol | C(C)OC(C(C(=O)OCC)=CNC1=CC=NN1CC)=O | C13H19N3O4
solvent | diphenyl ether | 200 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1-Ethyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1N=CC=2C1=NC=C(C2O)C(=O)OCC | C11H13N3O3
